US06004948
4-[3-(2,4-Dichlorophenoxy)-4-methylsulphonylamino-phenylsulphamoyl]-E-cinnamic acid
3-(2,4-Dichlorophenoxy)-4-methylsulphonylaminobenzene-sulphonic acid chloride (1.1 g, 2.55 mmol) was dissolved in CH2Cl2 (5 ml) and at 0° C. added dropwise to a solution of 4-aminocinnamic acid hydrochloride (0.65 g, 43.3 mmol) and DMAP (0.44 g, 3.6 mmol) in pyridine (20 ml). The mixture was stirred for 7 hours at 0° C. and then evaporated down. The residue was dried in vacuo and purified by chromatography (silica gel, petroleum ether/ethyl acetate/HOAc 1/1/0.1). Yield: 0.43 g=30% 13C (100 MHz, DMSO-d6) δ 167.68, 149.54, 147.56, 143.23, 139.25, 130.47, 130.33, 130.07, 129.89, 129.42, 129.21, 126.45, 123.19, 122.96, 122.71, 120.18, 118.42, 114.28, 113.74, 41.10

reactant | 3-(2,4-Dichlorophenoxy)-4-methylsulphonylaminobenzene-sulphonic acid chloride | 2.55 mmol, 1.1 g | ClC1=C(OC=2C=C(C=CC2NS(=O)(=O)C)S(=O)(=O)Cl)C=CC(=C1)Cl | C13H10Cl3NO5S2
reactant | 4-aminocinnamic acid hydrochloride | 43.3 mmol, 0.65 g | Cl.NC1=CC=C(C=CC(=O)O)C=C1
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 3.6 mmol, 0.44 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 4-[3-(2,4-Dichlorophenoxy)-4-methylsulphonylamino-phenylsulphamoyl]-E-cinnamic acid | ClC1=C(OC=2C=C(C=CC2NS(=O)(=O)C)NS(=O)(=O)C2=CC=C(/C=C/C(=O)O)C=C2)C=CC(=C1)Cl | C22H18Cl2N2O7S2
